US04689338
To a solution of 22.5 g (0.0823 mole) of 4-(n-hexyl)amino-3-nitroquinoline in 300 ml of toluene was added about 1.0 g of 5% platinum on charcoal and the mixture was hydrogenated on a Paar apparatus for 1.5 hours. Filtration followed by evaporation in vacuo provided a residue of 3-amino-4-(n-hexyl)aminoquinoline as an orange solid. Thin layer chromatographic analysis of the product on silica gel, eluting with methanol, showed one spot at Rf =0.73 and a trace at Rf=0.35.

reactant | 4-(n-hexyl)amino-3-nitroquinoline | 0.0823 mole, 22.5 g | C(CCCCC)NC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C15H19N3O2
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
catalyst | platinum on charcoal | about 1.0 g | [Pt] | Pt
product | 3-amino-4-(n-hexyl)aminoquinoline | NC=1C=NC2=CC=CC=C2C1NCCCCCC | C15H21N3
